US07381820B2
9-(2-Fluoro-β-D-arabinosyl)guanine [Formula II; B=guanine]
2,6-Diamino-9-(2-fluoro-β-D-arabinosyl)purine (61.2 mg, 0.21 mmol) was dissolved in 50 mM Tris-HCl buffer solution (20 mL, pH 7.0), and adenosine deaminase (71 units) was added to the resultant solution, followed by stirring at room temperature for 1.5 hours. The resultant reaction mixture was subjected to filtration by use of a membrane filter (PTFE, 0.5 μm), and the filtrate was prepared into 60 mL of an aqueous solution. The aqueous solution was purified by means of reverse-phase ODS column chromatography (80 mL, 0 to 2% aqueous acetonitrile), to thereby yield 60.4 mg of the title compound as colorless crystals (yield: 100%).

reactant | 2,6-Diamino-9-(2-fluoro-β-D-arabinosyl)purine | 0.21 mmol, 61.2 mg | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@](O)([C@H](O)[C@H](O)CO1)F)N | C10H13FN6O4
reactant | adenosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
solvent | Tris-HCl | 50 mM, 20 mL, pH 7.0 | C(C(CO)(CO)N)O.Cl
product | 9-(2-Fluoro-β-D-arabinosyl)guanine | yield 60.4 mg, yield: 100% | F[C@]1([C@@H](OC[C@H]([C@H]1O)O)N1C=2N=C(NC(C2N=C1)=O)N)O | C10H12FN5O5
